US09382254B2
Intermediate 5: 2-acetylamino-4-methyl-thiophene-3-carboxylic acid amide
A solution of 2-amino-4-methyl-thiophene-3-carboxylic acid amide (5 g, 32 mmol) in DCM (100 mL) is cooled to 0° C. Dry pyridine (3.6 mL, 45 mmol) is added, followed by acetylchloride (11 mL, 156 mmol) which is added dropwise to the solution. The resulting mixture is stirred at room temperature overnight, then diluted with DCM and washed with aqueous NaHCO3. The organic phase is dried over MgSO4, filtered and concentrated. The obtained residue is triturated in di-isopropylether, filtered, and the cake is dried to afford the desired product.

reactant | 2-amino-4-methyl-thiophene-3-carboxylic acid amide | 32 mmol, 5 g | NC=1SC=C(C1C(=O)N)C | C6H8N2OS
reactant | pyridine | 45 mmol, 3.6 mL | N1=CC=CC=C1 | C5H5N
reactant | acetylchloride | 156 mmol, 11 mL | C(C)(=O)Cl | C2H3ClO
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 2-acetylamino-4-methyl-thiophene-3-carboxylic acid amide | C(C)(=O)NC=1SC=C(C1C(=O)N)C | C8H10N2O2S
